US07897792B2
7-Hydroxy-4-methyl-3-(3-nitrobenzyl)-pyrano[2,3-b]pyridin-2-one
Zn(OTf)2 (669 mg, 1.84 mmol) was added to a suspension of pyridine-2,6-diol (204 mg, 1.84 mmol) and 2-(3-nitrobenzyl)-3-oxobutyric acid ethyl ester (488 mg, 1.84 mmol) in methanol (10 mL), and the mixture was stirred at 75° C. for 30 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic extract was washed with saturated saline and dried over magnesium sulfate. It was then concentrated under reduced pressure to yield a crude product, which was then purified by column chromatography to yield the title compound (330 mg, 57%).

reactant | pyridine-2,6-diol | 1.84 mmol, 204 mg | N1=C(C=CC=C1O)O | C5H5NO2
reactant | 2-(3-nitrobenzyl)-3-oxobutyric acid ethyl ester | 1.84 mmol, 488 mg | C(C)OC(C(C(C)=O)CC1=CC(=CC=C1)[N+](=O)[O-])=O | C13H15NO5
reactant | water | O | H2O
solvent | methanol | 10 mL | CO | CH4O
catalyst | Zn(OTf)2 | 1.84 mmol, 669 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Zn+2]
product | 7-Hydroxy-4-methyl-3-(3-nitrobenzyl)-pyrano[2,3-b]pyridin-2-one | 330 mg, 57% | OC1=CC=C2C(=N1)OC(C(=C2C)CC2=CC(=CC=C2)[N+](=O)[O-])=O | C16H12N2O5
